US07026316B2
Trans-4-[(1S)-1-amino-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl]cyclohexanol
3.5 g (12.2 mmol) of methyl trans-(2S)-[(tert-butoxycarbonyl)-amino](4-hydroxycyclohexyl)-ethanoate was converted to 3.34 g of tert-butyl trans-(1S)-1-(4-hydroxycyclohexyl)-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl-carbamate using the procedures outlined in Example 1, Step C. 1H NMR (400 MHz, CD3OD, mixture of rotamers) δ 4.65–4.47 (m, 1.5H), 4.19–4.05 (m, 1.5H), 3.55–3.40 (m, 1H), 3.17–3.03 (m, 2H), 2.00–1.83 (m, 3H), 1.70–1.58 (m, 2H), 1.45–1.38 (m, 9H), 1.30–1.08 (m, 4H). A portion of this material was deprotected as described in Example 1, Step D to give the title compound. 1H NMR (400 MHz, CD3OD, mixture of rotamers) δ 4.65–4.63 (m, 0.5H), 4.61–4.57 (m, 1H), 4.50–4.44 (m, 0.5H), 3.93–3.85 (m, 0.5H), 3.82–3.71 (m, 1.5H), 3.50–3.38 (m, 2H), 3.15–3.02 (m, 2H), 2.01–1.83 (m, 3H), 1.63–1.59 (m, 1H), 1.55–1.45 (m, 1H), 1.30–1.05 (m, 4H).

reactant | methyl trans-(2S)-[(tert-butoxycarbonyl)-amino](4-hydroxycyclohexyl)-ethanoate | 12.2 mmol, 3.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@@H]1CC[C@H](CC1)O | C14H25NO5
reactant | tert-butyl trans-(1S)-1-(4-hydroxycyclohexyl)-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl-carbamate | 3.34 g | O[C@@H]1CC[C@H](CC1)[C@@H](C(N1CSCC1)=O)NC(OC(C)(C)C)=O | C16H28N2O4S
product | Trans-4-[(1S)-1-amino-2-oxo-2-(1,3-thiazolidin-3-yl)ethyl]cyclohexanol | N[C@H](C(N1CSCC1)=O)[C@@H]1CC[C@H](CC1)O | C11H20N2O2S
